US04711882
1-tert-Butoxycarbonyl-2-ethoxycarbonyl-6-azaindole
A stirred suspension of sodium hydride (80%, 0.16 g, 0.0055 mole) in dry N,N-dimethylformamide (5 ml) was treated at 0° C. with a slurry of 2-ethoxycarbonyl-6-azaindole (1.0 g, 0.0053 mole) and stirred at room temperature for 1 hour by which time evolution of hydrogen had ceased and a clear solution was obtained. The mixture was cooled to 0° C., treated with a solution of di-tert-butyl-dicarbonate (1.15 g, 0.0053 mole) and the resulting gel stirred at room temperature for 18 hours. The reaction mixture was poured into ice-water (150 ml) and the solution extracted with ethyl acetate (4×50 ml); the combined organic extracts were washed with brine (3×50 ml) and dried over sodium sulphate. Evaporation of the solvents under vacuum gave an orange oil which was chromatographed on silica gel (12 g) eluting first with hexane and then with a mixture of hexane and ethyl acetate 70:30 to give the pure title product as a pale yellow oil (1.37 g, 90%). Found: C, 62.40; H, 6.35; N, 9.84. C15H18N2O4 requires C, 62.05; H, 6.25; N, 9.65%.

reactant | sodium hydride | 0.0055 mole, 0.16 g | [H-].[Na+]
reactant | 2-ethoxycarbonyl-6-azaindole | 0.0053 mole, 1.0 g | C(C)OC(=O)C=1NC2=CN=CC=C2C1 | C10H10N2O2
reactant | hydrogen | [H][H] | H2
reactant | di-tert-butyl-dicarbonate | 0.0053 mole, 1.15 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-tert-Butoxycarbonyl-2-ethoxycarbonyl-6-azaindole | 1.37 g, 90% | C(C)(C)(C)OC(=O)N1C(=CC2=CC=NC=C12)C(=O)OCC | C15H18N2O4
